### PR TITLE
feat(Algebra/Category): `Under.pushout` preserves finite limits for flat homomorphisms

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/CommAlgCat/BaseChange.lean [hunk 1]
```diff
@@ -0,0 +1,62 @@
...
+    change (pushout.desc (f.right ≫ pushout.inl Y.hom φ) (pushout.inr Y.hom φ) _ ≫ (e Y).hom) _ =
+      ((e X).hom ≫ CommRingCat.ofHom
+        (Algebra.TensorProduct.map (.id R S) (CommRingCat.toAlgHom f))) _
+    congr 2
+    ext1
+    · rw [reassoc_of% hel]
+      simp [hel, ← CommRingCat.ofHom_comp, ← AlgHom.comp_toRingHom]
+      rfl
+    · rw [reassoc_of% her]
+      simp [her, ← CommRingCat.ofHom_comp, ← AlgHom.comp_toRingHom]
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/CommAlgCat/BaseChange.lean]:
```suggestion
def CommRingCat.pushoutIsoExtendScalars :
    Under.pushout φ ⋙ (commAlgCatEquivUnder S).inverse ⋙
      forget₂ (CommAlgCat ↑S) (AlgCat ↑S) ⋙ forget₂ (AlgCat ↑S) (ModuleCat ↑S) ≅
    (commAlgCatEquivUnder R).inverse ⋙ forget₂ (CommAlgCat R) (AlgCat R) ⋙
      forget₂ (AlgCat R) (ModuleCat R) ⋙ ModuleCat.extendScalars φ.hom := by
  letI := φ.hom.toAlgebra
  letI e (A : Under R) : (Under.pushout φ).obj A ≅
     (commAlgCatEquivUnder S).functor.obj (.of _ <| S ⊗[R] A.right) :=
    Under.isoMk (
      pushoutSymmetry _ _ ≪≫ (colimit.isColimit _).coconePointUniqueUpToIso
        (CommRingCat.pushoutCoconeIsColimit R _ _)) (by
    dsimp
    simpa [-IsColimit.comp_coconePointUniqueUpToIso_hom] using
      (colimit.isColimit _).comp_coconePointUniqueUpToIso_hom _ _)
  haveI hel (A : Under R) : pushout.inl _ _ ≫ (e A).hom.right =
      CommRingCat.ofHom Algebra.TensorProduct.includeRight.toRingHom := by
    simpa [e, -IsColimit.comp_coconePointUniqueUpToIso_hom] using
      (colimit.isColimit _).comp_coconePointUniqueUpToIso_hom _ _
  haveI her (A : Under R) : pushout.inr _ _ ≫ (e A).hom.right =
      CommRingCat.ofHom (Algebra.TensorProduct.includeLeft (S := R)).toRingHom := by
    simpa [e, -IsColimit.comp_coconePointUniqueUpToIso_hom] using
      (colimit.isColimit _).comp_coconePointUniqueUpToIso_hom _ _
  refine NatIso.ofComponents (fun A ↦
    LinearEquiv.toModuleIso
      ((forget₂ (CommAlgCat ↑S) (AlgCat ↑S)).mapIso
        ((commAlgCatEquivUnder S).inverse.mapIso (e A) ≪≫
        (commAlgCatEquivUnder S).unitIso.symm.app _)).toAlgEquiv.toLinearEquiv ) ?_
  · intros X Y f
    ext x
    change (pushout.desc
      (f.right ≫ pushout.inl Y.hom φ) (pushout.inr Y.hom φ) _ ≫ (e Y).hom.right) _ =
      ((e X).hom.right ≫ CommRingCat.ofHom
        (Algebra.TensorProduct.map (.id R S) (CommRingCat.toAlgHom f))) _
    congr 2
    ext1
    · rw [reassoc_of% hel]
      simp [hel, ← CommRingCat.ofHom_comp, ← AlgHom.comp_toRingHom]
      rfl
    · rw [reassoc_of% her]
      simp [her, ← CommRingCat.ofHom_comp, ← AlgHom.comp_toRingHom]
```

Not a huge suggestion, but it feels a bit weird proving linearity as a side condition when this could already be done via universal properties by bundling `e` as an iso in `Under` rather than in `CommAlgCat`. Sadly, this doesn’t simplify much of the defeq forcing that has to be done at the end :(

**Review by robin-carlier — COMMENTED** [review]
LGTM modulo minor comments

File: Mathlib/Algebra/Category/Ring/Flat.lean [hunk 2]
```diff
@@ -0,0 +1,49 @@
...
+  refine ⟨(((ModuleCat.extendScalars f).preservesFiniteColimits_tfae.out 3 0 rfl rfl).mp
+    inferInstance S hS).1, ?_⟩
+  rw [ModuleCat.mono_iff_injective]
+  algebraize [f]
+  exact Module.Flat.lTensor_preserves_injective_linearMap _ ((mono_iff_injective _).mp hS.mono_f)
+
+-- Note that it always preserves all colimits (available via `infer_instance`)
+lemma CommRingCat.preservesFiniteLimits_pushout_of_flat
+    (hφ : φ.hom.Flat) : PreservesFiniteLimits (Under.pushout φ) := by
+  constructor
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/Ring/Flat.lean:37]: Is this not [CommRingCat.Under.preservesFiniteLimits_of_flat](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/Ring/Under/Limits.html#CommRingCat.Under.preservesFiniteLimits_of_flat)?

Comment (erdOne) [reply Mathlib/Algebra/Category/Ring/Flat.lean:37]: Oh I didn't find that. Then I don't need this PR anymore. But I wonder if some of the results here are of independent interest?
